US07109228B2
1-Cyclopropyl-1,3-pentanedione
A stirred suspension of magnesium turnings (1.83 g, 75.0 mmol) in methanol (85 ml) was heated under reflux for 90 minutes. The suspension was cooled to room temperature and a solution of 3-ketopentanoic acid (17.4 g, 150.0 mmol) in methanol (15 ml) was added. The white suspension dissolved to give a pale yellow solution. The reaction was stirred at room temperature for 1 hour and then concentrated under reduced pressure to give a pale yellow solid which was dissolved in N,N-dimethylformamide (50 ml). In a separate flask carbonyldiimidazole (13.4 g, 83.0 mmol) was added portionwise to a stirred solution of cyclopropanecarboxylic acid (6.46 g, 75.0 mmol) in N,N-dimethylformamide (150 ml) at room temperature under nitrogen. The reaction was stirred for 90 minutes and then the magnesium salt previously prepared was added dropwise. The reaction was stirred for 3 days and then poured into 1.0M hydrochloric acid (150 ml). The aqueous phase was extracted with ether (3×200 ml) and the combined organic phases were dried over magnesium sulphate, filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography on silica gel eluting with pentane:ethyl acetate (90:10, by volume) to provide the title compound (9.33 g) as a yellow oil.

reactant | magnesium | 75.0 mmol, 1.83 g | [Mg] | Mg
reactant | 3-ketopentanoic acid | 150.0 mmol, 17.4 g | O=C(CC(=O)O)CC | C5H8O3
reactant | carbonyldiimidazole | 83.0 mmol, 13.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cyclopropanecarboxylic acid | 75.0 mmol, 6.46 g | C1(CC1)C(=O)O | C4H6O2
reactant | hydrochloric acid | 1.0M, 150 ml | Cl | ClH
solvent | methanol | 85 ml | CO | CH4O
solvent | methanol | 15 ml | CO | CH4O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-Cyclopropyl-1,3-pentanedione | 9.33 g | C1(CC1)C(CC(CC)=O)=O | C8H12O2
